US05098930
A solution of 2,6-dimethyltetrahydropyran-4-one (2.2 g) in tetrahydrofuran (5 ml) was added to a solution of 3-benzyloxyphenylmagnesium bromide [prepared by heating a mixture of 3-benzyloxybromobenzene (5 g), magnesium (0.5 g) and tetrahydrofuran (20 ml)] in tetrahydrofuran and the mixture was stirred at ambient temperature for 3 hours. The mixture was cooled to 5° C., ice (5 ml) and 2N hydrochloric acid solution (25 ml) were added, and the mixture was extracted with ethyl acetate. The organic phase was washed with a saturated sodium chloride solution, dried (MgSO4) and evaporated. The residue was purifed by column chromatography using increasingly polar mixtures of toluene and ethyl acetate as eluent. There were thus obtained two isomers of 4-(3-benzyloxyphenyl)-4-hydroxy-2,6-dimethyltetrahydropyran: a less polar isomer (2.41 g, 45%),

reactant | 2,6-dimethyltetrahydropyran-4-one | 2.2 g | CC1OC(CC(C1)=O)C | C7H12O2
reactant | 3-benzyloxyphenylmagnesium bromide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)[Mg]Br
reactant | 3-benzyloxybromobenzene | 5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)Br | C13H11BrO
reactant | magnesium | 0.5 g | [Mg] | Mg
reactant | hydrochloric acid | 2N, 25 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(3-benzyloxyphenyl)-4-hydroxy-2,6-dimethyltetrahydropyran | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CC(OC(C1)C)C)O | C20H24O3
